US06110962
[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetic acid, tert-butyl ester;
[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetic acid, sodium salt;

reactant | [2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetic acid | BrC1=C(OCC(=O)O)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C24H13Br3O3S
reactant | sodium | [Na] | Na
product | [2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetic acid, tert-butyl ester | BrC1=C(OCC(=O)OC(C)(C)C)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C28H21Br3O3S
